US03984465
Step A: 2',3'-Dichloro-4'-methoxyisobutyrophenone
A stirred mixture of 2,3-dichloroanisole (100 g., 0.565 mole) and isobutyryl chloride (66 g., 0.62 mole) in methylene chloride (400 ml.) is cooled to 5° C. and treated with aluminum chloride (83 g., 0.62 mole) during a one-hour period. The reaction mixture is allowed to warm to 25°C. and after 24 hours is poured into ice water (400 ml.) and hydrochloric acid (30 ml.). The organic phase is washed with 5% sodium hydroxide, water, dried over magnesium sulfate and distilled at reduced pressure affording 68 g. of 2',3'-dichloro-4'-methoxyisobutyrophenone which distills at 120°-130° C./0.5 mm.

reactant | 2,3-dichloroanisole | 0.565 mole, 100 g | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
reactant | isobutyryl chloride | 0.62 mole, 66 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | aluminum chloride | 0.62 mole, 83 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 2',3'-Dichloro-4'-methoxyisobutyrophenone | ClC1=C(C=CC(=C1Cl)OC)C(C(C)C)=O | C11H12Cl2O2
